US06867185B2
A solution of 2(S)-tert-butoxycarbonylamino-8-nonenoic acid (purchased from RSP Amino Acids)(3.5 g, 12.9 mmol) in 200 mL of DCM was treated sequentially with 4(R)-hydroxypyrrolidine-2(S)-carboxylic acid methyl ester hydrocholoride (2.15 g, 11.8 mmol), N-methyl morpholine (4.25 mL, 38.6 mmol), and HATU (5.37 g, 14.1 mmol). The reaction mixture was stirred at rt under N2 for 3 days, and then concentrated in vacuo. The residue was partitioned between ethyl acetate and pH 4 buffer (biphthalate). The organic phase was washed with sat. aq. NaHCO3, dried (MgSO4), and concentrated in vacuo to give the crude product. Flash chromatography (50% ethyl acetate/hexane to 100% ethyl acetate) gave 4.7 g (˜100%) of 1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid methyl ester as a colorless oil: 1H NMR (500 MHz, CD3OD) δ 1.33-1.50 (m, 8H), 1.46 (s, 9H), 1.57 (m, 1H), 1.72 (m, 1H) 2.08 (m, 2H), 2.28 (m, 1H), 3.72 (s, 3H,) 3.75-3.87 (m, 2H), 4.36 (m, 1H), 4.51 (bs, 1H), 4.57 (t, J=8.2 Hz, 1H), 4.95 (d, J=10.4 Hz, 1H), 5.01 (m, 1H), 5.83 (m, 1H). LC-MS (Method J, retention time: 3.01 min), MS m/z 399 (M++1). Step 26ii: Preparation of 1-{[1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)carbonyl]-(1R)-amino}-2(S)-vinylcyclopropanecarboxylic acid ethyl ester

reactant | 2(S)-tert-butoxycarbonylamino-8-nonenoic acid | 12.9 mmol, 3.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC=C | C14H25NO4
reactant | 4(R)-hydroxypyrrolidine-2(S)-carboxylic acid methyl ester | 11.8 mmol, 2.15 g | COC(=O)[C@H]1NC[C@@H](C1)O | C6H11NO3
reactant | N-methyl morpholine | 38.6 mmol, 4.25 mL | CN1CCOCC1 | C5H11NO
reactant | HATU | 14.1 mmol, 5.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(2(S)-tert-Butoxycarbonylamino-non-8-enoyl)-4(R)-hydroxy-pyrrolidine-2(S)-carboxylic acid methyl ester | 4.7 g, ~100% | COC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O | C20H34N2O6
